US06127541
4-Chloro-7-ethylamino-6-nitroquinazoline
7-Ethylamino-6-nitro-4(3H)-quinazolinone (30.0 g, 128 mmol) was suspended in phosphorus oxychloride (270 ml, 2.90 mol) and the mixture was heated at 110° C. for 2 hours under an argon gas atmosphere (to form a clear solution). After it was confirmed that the starting material disappeared, unreacted phosphorus oxychloride was removed under reduced pressure. After the residue was subjected to azeotrope with toluene, the resulting oily substances were dissolved in the necessary minimum amount of tetrahydrofuran. The tetrahydrofuran solution obtained was poured onto ice-cold water by adding a sufficient amount of sodium hydrogen carbonate, followed by extraction with ethyl acetate. The organic layer was dried (over anhydrous magnesium sulfate), and the drying agent was filtered off. The filtrate was concentrated under reduced pressure to give the title compound (33.4 g).

reactant | 7-Ethylamino-6-nitro-4(3H)-quinazolinone | 128 mmol, 30.0 g | C(C)NC1=C(C=C2C(NC=NC2=C1)=O)[N+](=O)[O-] | C10H10N4O3
reactant | phosphorus oxychloride | 2.90 mol, 270 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-Chloro-7-ethylamino-6-nitroquinazoline | 33.4 g | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])NCC | C10H9ClN4O2
